US05571821
Chlorosulfonic acid (ClSO3H, 2.31 g, 19.62 mmol) was slowly added at 0° C. to a solution of 3-methoxythiophene (2.29 g, 19.62 mmol) in CHCl3 (80 ml) The resulting mixture was stirred at 0° C. for 30 min. The solvent was evaporated under reduced pressure, at room temperature, the residue was suspended in POCl3 (15 ml, 156.96 mmol), and PCl5 (8.2 g, 39.24 mmol) was added slowly. The reaction was stirred at 60° C. for 18 h, then cooled to room temperature and poured onto crushed ice (200 g). The aqueous mixture was extracted with CHCl3 (2×150 ml) and the combined organic layers was dried (MgSO4). The solid was removed by filtration and the filtrate was concentrated to give 3-methoxy-2-thiophenesulfonyl chloride as a brown oil (1.81 g, 43% yield).

reactant | Chlorosulfonic acid | 19.62 mmol, 2.31 g | ClS(=O)(=O)O | ClHO3S
reactant | 3-methoxythiophene | 19.62 mmol, 2.29 g | COC1=CSC=C1 | C5H6OS
reactant | POCl3 | 156.96 mmol, 15 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | PCl5 | 39.24 mmol, 8.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CHCl3 | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methoxy-2-thiophenesulfonyl chloride | 1.81 g, 43% yield | COC1=C(SC=C1)S(=O)(=O)Cl | C5H5ClO3S2
